US04933330
2-Hydroxy-5-benzylideneaminobenzoic acid
2-Hydroxy-5-aminobenzoic acid (10.0 g, 65 mmole) was mixed with benzaldehyde (30 ml) and heated to boiling until a clear solution was obtained. To the solution ice-cooled toluene (100 ml) was added, the precipitated crystals filtered off and washed with cold absolute ethanol (2×25 ml) followed by petroleum ether (3×25 ml) and dried, in vacuo, to give the title compound (6.8 g, 47%), m.p. 213°-215° C. Found (Calc. for C14H11NO3) C 69.28 (69.70), H 4.73 (4.56), N 5.73 (5.81).

reactant | 2-Hydroxy-5-aminobenzoic acid | 65 mmole, 10.0 g | OC1=C(C(=O)O)C=C(C=C1)N | C7H7NO3
reactant | benzaldehyde | 30 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Hydroxy-5-benzylideneaminobenzoic acid | 6.8 g, 47% | OC1=C(C(=O)O)C=C(C=C1)N=CC1=CC=CC=C1 | C14H11NO3
